US08877780B2
A stirred mixture of 6-ethoxy-nicotinic acid (0.23 g, 1.40 mmol) and CDI (0.24 g, 1.50 mmol) in N,N-dimethylformamide (10 mL) was heated to 40° C. under nitrogen. After 1 h, 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methane sulfonate (0.5 g, 1.40 mmol) was added and the mixture was heated at 50° C. for 1.5 h. The mixture was cooled to rt and water (20 mL) was added. The solids were isolated by filtration and then triturated in EtOAc (20 mL) for 18 h. The product was filtered and dried in vacuo to give 6-ethoxy-pyridazine-3-carboxylic acid N-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-6-ethoxy-nicotinamide as a white solid (0.30 g, 53% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 10/90 to 90/10 CH3CN/0.1% H3PO4 gradient over 15 mins, 7.12 min (95.33%); mp: 255-257° C.; 1H NMR (DMSO-d6) δ 1.33 (t, J=7.1 Hz, 3H, CH3), 1.84-2.14 (m, 1H, CHH), 2.27-2.47 (m, 1H, CHH), 2.60 (d, J=16.8 Hz, 1H, CHH), 2.80-3.09 (m, 1H, CHH), 4.21-4.52 (m, 4H, CH2, CH2), 4.59 (d, J=5.9 Hz, 2H, CH2), 5.11 (dd, J=5.1, 13.2 Hz, 1H, CH), 6.88 (d, J=8.7 Hz, 1H, Ar), 7.47 (d, J=7.9 Hz, 1H, Ar), 7.55 (s, 1H, Ar), 7.70 (d, J=7.7 Hz, 1H, Ar), 8.16 (dd, J=2.5, 8.7 Hz, 1H, Ar), 8.71 (d, J=2.3 Hz, 1H, Ar), 9.14 (t, J=5.9 Hz, 1H, NH), 10.98 (s, 1H, NH); 13C NMR (DMSO-d6) δ 14.40, 22.49, 31.20, 42.60, 47.12, 51.58, 61.80, 110.19, 122.07, 122.94, 123.26, 127.07, 130.39, 138.18, 142.40, 143.80, 147.10, 164.61, 164.91, 167.92, 170.98, 172.85; LCMS: MH=423; Anal Calcd for C22H22N4O5: C, 62.55; H, 5.25; N, 13.26. Found: C, 62.24; H, 5.19; N, 13.15.

reactant | 6-ethoxy-nicotinic acid | 1.40 mmol, 0.23 g | C(C)OC1=NC=C(C(=O)O)C=C1 | C8H9NO3
reactant | CDI | 1.50 mmol, 0.24 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methane sulfonate | 1.40 mmol, 0.5 g | CS(=O)(=O)O.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | water | 20 mL | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 6-ethoxy-pyridazine-3-carboxylic acid N-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-6-ethoxy-nicotinamide | 0.30 g, 53% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1)CNC(C1=CN=C(C=C1)OCC)=O)=O)=O.C(C)OC1=CC=C(N=N1)C(=O)O | InChI=1S/C22H22N4O5.C7H8N2O3/c1-2-31-19-8-4-14(11-23-19)20(28)24-10-13-3-5-16-15(9-13)12-26(22(16)30)17-6-7-18(27)25-21(17)29;1-2-12-6-4-3-5(7(10)11)8-9-6/h3-5,8-9,11,17H,2,6-7,10,12H2,1H3,(H,24,28)(H,25,27,29);3-4H,2H2,1H3,(H,10,11)
